US06660753B2
A solution of 2-bromoacetylpyridine (400 mg, 2.0 mmol) in ethanol (5 mL) was treated with 3-iodothiobenzamide (1.2g, 6 mmol) and the mixture heated at reflux for 16 hours. After cooling the mixture was concentrated in vacuo. Silica gel chromatography of the residue using a gradient of hexane to ethyl acetate afforded 302 mg (55%) of 2-(3-iodophenyl)-4-(pyridin-2-yl)-1,3-thiazole, as a white solid.

reactant | 2-bromoacetylpyridine | 2.0 mmol, 400 mg | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
reactant | 3-iodothiobenzamide | 6 mmol, 1.2g | IC=1C=C(C(=S)N)C=CC1 | C7H6INS
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(3-iodophenyl)-4-(pyridin-2-yl)-1,3-thiazole | 302 mg, 55% | IC=1C=C(C=CC1)C=1SC=C(N1)C1=NC=CC=C1 | C14H9IN2S
